US04772693
(B) N-(2,5-Dioxo-1-imidazolidinyl)-1,4-dihydro-4-oxo-5-hydroxy-2-pyridinecarboxamide
To a solution of 10.8 g (0.025 mol) of N-(2,5-dioxo-1-imidazolidinyl)-1,4-dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinecarboxamide in 200 ml of dimethylformamide was added 3.83 ml of trifluoroacetic acid (0.05 mol) and 6 g of palladium on charcoal (10%). With vigorous stirring, hydrogen was passed through the solution for 45 minutes. The catalyst was removed by filtration and the filtrate evaporated. The remaining syrup solidified on trituration with ether. Yield: 6.1 g, melting point 260°-270° C., dec.

reactant | N-(2,5-dioxo-1-imidazolidinyl)-1,4-dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinecarboxamide | 0.025 mol, 10.8 g | O=C1N(C(CN1)=O)NC(=O)C=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C23H20N4O5
reactant | trifluoroacetic acid | 0.05 mol, 3.83 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 6 g | [Pd] | Pd
product | N-(2,5-Dioxo-1-imidazolidinyl)-1,4-dihydro-4-oxo-5-hydroxy-2-pyridinecarboxamide | O=C1N(C(CN1)=O)NC(=O)C=1NC=C(C(C1)=O)O | C9H8N4O5
